US07285363B2
Preparation of Benzophenone Dimer (7)
A dried Schlenk tube was charged with methyl 4-(p-bromobenzoyl) benzoate (6) (0.20 g, 0.63 mmol), tris (dibenzylidene acetone) dipalladium (0.029 g, 0.032 mmol), DPPF (0.035 g, 0.063 mmol) and toluene (8 mL) under nitrogen. The reaction was capped with a polytetrafluoroethylene (PTFE) septum, and pentanediamine (0.026 g, 0.252 mmol) was added via syringe. The reaction mixture was then heated to 90° C. for 12 hours. The cooled mixture was diluted with diethyl ether (30 mL) and then concentrated in vacuo. Purification by flash chromatography on silica gel (petroleum ether/ethyl acetate, 50/50, v/v) afforded 0.072 grams (a yield of 21%) as a pale yellow solid:

reactant | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
reactant | polytetrafluoroethylene | FC(C(F)(F)[*:1])(F)[*:2]
reactant | pentanediamine | 0.252 mmol, 0.026 g | C(CCCC)(N)N | C5H14N2
reactant | diethyl ether | 30 mL | C(C)OCC | C4H10O
catalyst | tris (dibenzylidene acetone) dipalladium | 0.032 mmol, 0.029 g | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
catalyst | DPPF | 0.063 mmol, 0.035 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | Benzophenone | yield of 21% | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
